US05958869
L-arginine (17.4 g, 0.1 mols) was dissolved in 100 ml of water in a three-necked round flask, and 100 ml of i-propanol were added thereto. Then, 32.6 g (0.1 mols) of octadecylglycidyl ether (made by Sakamoto Yakuhin Kogyo Co., Ltd.) were added dropwise thereto over a period of 30 minutes while being heat-refluxed and stirred. Further, the mixture was stirred under reflux for 3 hours. It was identified through TLC and gas chromatography that octadecylglycidyl ether disappeared. Thereafter, the resulting mixture was neutralized with 10.1 g (0.1 mols) of 36% hydrochloric acid. The reaction solution was concentrated under reduced pressure, and the residue was purified through silica-gel column chromatography (Kieselgel 60, eluent=mixture of chloroform, methanol and acetic acid at a ratio of 3:1:0.5) to give 21.2 g of N-(2-hydroxy-3-octadecyloxypropyl)-L-arginine hydrochloride (yield 42.3%).

reactant | L-arginine | 0.1 mols, 17.4 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | i-propanol | 100 ml | C(C)(C)O | C3H8O
reactant | octadecylglycidyl ether | 0.1 mols, 32.6 g | C(CCCCCCCCCCCCCCCCC)OCC1CO1 | C21H42O2
reactant | hydrochloric acid | 0.1 mols, 10.1 g | Cl | ClH
solvent | water | 100 ml | O | H2O
product | N-(2-hydroxy-3-octadecyloxypropyl)-L-arginine hydrochloride | 21.2 g, yield 42.3% | Cl.OC(CN[C@@H](CCCNC(N)=N)C(=O)O)COCCCCCCCCCCCCCCCCCC | InChI=1S/C27H56N4O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-35-23-24(32)22-31-25(26(33)34)19-18-20-30-27(28)29;/h24-25,31-32H,2-23H2,1H3,(H,33,34)(H4,28,29,30);1H/t24?,25-;/m0./s1
